US06500828B1
a) 3,6-Dichloro-4-(1,1-dimethylethyl)pyridazine
Concentrated sulfuric acid (53.6 ml, 1.0 mol) was added carefully to a stirred suspension of 3,6-dichloropyridazine (50.0 g, 0.34 mol) in water (1.25 l). This mixture was then heated to 70° C. (internal temperature) before the addition of trimethylacetic acid (47.5 ml, 0.41 mol). A solution of silver nitrate (11.4 g, 0.07 mol) in water (20 ml) was then added over approximately one minute. This caused the reaction mixture to become milky in appearance. A solution of ammonium persulphate (230 g, 1.0 mol) in water (0.63 l) was then added over 20-30 minutes. The internal temperature rose to approximately 85° C. During the addition the product formed as a sticky precipitate. Upon complete addition the reaction was stirred for an additional 10 minutes, then allowed to cool to room temperature. The mixture was then poured onto ice and basified with concentrated aqueous ammonia, with the addition of more ice as required to keep the temperature below 10° C. The aqueous was extracted with dichloromethane (3×300 ml). The combined extracts were dried (MgSO4), filtered and evaporated to give 55.8 g of crude product as an oil. This was purified by silica gel chromatography using 0-15% ethyl acetate in hexane as eluent to give 37.31 g (53%) of the desired compound. Data for the title compound: 1H NMR (360 MHz, d6-DMSO) δ1.50 (9H, s), 7.48 (1H, s); MS (ES+) m/e 205 [MH]+, 207 [MH]+.

reactant | sulfuric acid | 1.0 mol, 53.6 ml | S(O)(O)(=O)=O | H2O4S
reactant | 3,6-dichloropyridazine | 0.34 mol, 50.0 g | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | trimethylacetic acid | 0.41 mol, 47.5 ml | CC(C(=O)O)(C)C | C5H10O2
reactant | ammonium persulphate | 1.0 mol, 230 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
reactant | ammonia | N | H3N
solvent | water | 1.25 l | O | H2O
solvent | water | 20 ml | O | H2O
solvent | water | 0.63 l | O | H2O
catalyst | silver nitrate | 0.07 mol, 11.4 g | [N+](=O)([O-])[O-].[Ag+]
product | 3,6-Dichloro-4-(1,1-dimethylethyl)pyridazine | 37.31 g, 53% | ClC=1N=NC(=CC1C(C)(C)C)Cl | C8H10Cl2N2
